US06858651B2
To a suspension of 1.39 g (4.4 mmol, 2.2 eq) Hydrogen peroxide.Urea adduct in CH2Cl2, 338.5 mg (2.2 mmol, 1.1 eq) phthalic anhydride were added and stirred for 15 min at RT. 800 mg (2.01 mmol) trans-[4-(5-Dimethylamino-pentyloxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester in CH2Cl2 was added and the mixture was stirred at RT for 2 h. 5% aqueous K2CO3 solution was added and the inorganic phase was extracted with CH2Cl2. The organic phases were washed with water and brine and dried over MgSO4. Column chromatography yielded 525 mg (63%) trans-[4-(5-Dimethylamino-pentyloxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester N-oxide as colourless oil, MS: 413 (MH+, 1Cl).

reactant | Hydrogen peroxide | 4.4 mmol, 1.39 g, 2.2 eq | OO | H2O2
reactant | Urea | NC(=O)N | CH4N2O
reactant | phthalic anhydride | 2.2 mmol, 338.5 mg, 1.1 eq | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | trans-[4-(5-Dimethylamino-pentyloxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester | 2.01 mmol, 800 mg | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)OCCCCCN(C)C)=O | C21H33ClN2O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | trans-[4-(5-Dimethylamino-pentyloxy)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester N-oxide | 525 mg, 63% | ClC1=CC=C(C=C1)OC([N+](C)([C@@H]1CC[C@H](CC1)OCCCCCN(C)C)[O-])=O | C21H33ClN2O4
